US08609688B2
Synthesis of tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate
To a suspension of tert-butyl (1-{4-[(6-chloro-3-nitropyridin-2-yl)amino]phenyl}cyclobutyl)carbamate (10 g, 24 mmol) in DMSO/MeOH (4:1, 200 mL), were added 2-aminonicotinaldehyde (3.5 g, 29 mmol) and sodium dithionite (16 g, 93 mmol) and the mixture was heated for 48 h at 100° C. The mixture was poured into water and the solid was collected by filtration. The solid was purified by silica gel column chromatography (dichloromethane/ethyl acetate, 10:0 to 0:10) to give the titled compound as a white solid (2.5 g, 21%).

reactant | tert-butyl (1-{4-[(6-chloro-3-nitropyridin-2-yl)amino]phenyl}cyclobutyl)carbamate | 24 mmol, 10 g | ClC1=CC=C(C(=N1)NC1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C20H23ClN4O4
reactant | 2-aminonicotinaldehyde | 29 mmol, 3.5 g | NC1=C(C=O)C=CC=N1 | C6H6N2O
reactant | sodium dithionite | 93 mmol, 16 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | DMSO MeOH | 200 mL | CS(=O)C.CO
product | tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 2.5 g, 21% | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)Cl)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C26H27ClN6O2
